US07750014B2
To a mixture of 2-(4-nitrophenyl)ethanimidamide hydrochloride (6.06 g, 28.12 mmol) and diethyl 2-formylsuccinate (6.54 g, 32.34 mmol) in methanol (100 mL) was added sodium methoxide (28% in methanol, 11.2 mL, 56.25 mmol) at room temperature, and the reaction mixture was stirred at 90° C. overnight. After the cooling to room temperature, the reaction was quenched with acetic acid (3.38 mL, 59.06 mmol) and water (100 mL) was added to. The resulting precipitates were collected by filtration and washed with water and acetone/diisopropyl ether (3/2) to give methyl [4-hydroxy-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (5.41 g, 64%) as brown solid.

reactant | 2-(4-nitrophenyl)ethanimidamide hydrochloride | 28.12 mmol, 6.06 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CC(N)=N
reactant | diethyl 2-formylsuccinate | 32.34 mmol, 6.54 g | C(=O)C(C(=O)OCC)CC(=O)OCC | C9H14O5
reactant | sodium methoxide | 56.25 mmol, 11.2 mL | C[O-].[Na+]
reactant | acetic acid | 59.06 mmol, 3.38 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | methyl [4-hydroxy-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 5.41 g, 64% | OC1=NC(=NC=C1CC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H13N3O5
